US08304557B2
2-methyl-5-(3-nitrophenoxy)pyridine
A mixture of 6-methylpyridin-3-ol (17.6 g, 161 mmol), 1-fluoro-3-nitrobenzene (25.0 g, 177 mmol), potassium carbonate (66.8 g, 483 mmol) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 13 hr, 120° C. for 5 hr and 140° C. for 4 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dried to give the title compound (28.6 g, 77%) as a yellow oil.

reactant | 6-methylpyridin-3-ol | 161 mmol, 17.6 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | 1-fluoro-3-nitrobenzene | 177 mmol, 25.0 g | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 483 mmol, 66.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-methyl-5-(3-nitrophenoxy)pyridine | 28.6 g, 77% | CC1=NC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C12H10N2O3
